US07169761B2
Tris(dibenzylideneacetone)dipalladium(0) (17 mg), 2-(dicyclohexylphosphino)biphenyl (22 mg), potassium fluoride (44 mg), and cesium carbonate (247 mg) were added to a solution of (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(bromomethyl) -2-fluorophenyl]-D-glucitol (198 mg) and methyl 2-(tributylstanyl)azulene-1-carboxylate (180 mg) in 1,4-dioxane (10 ml) and the mixture was vigorously stirred at 90° C. for 15 hours. The reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate-n-hexane). The resulting residue (71 ml) was dissolved in THF-methanol (ratio: 1:1, 6.0 ml). Sodium methoxide (30 mg) was added to the solution and the resulting mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to obtain methyl 2-[2-fluoro-3-[(2S, 3R,4R,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-yl]benzyl]azulene-1-carboxylate (19 mg).

reactant | 2-(dicyclohexylphosphino)biphenyl | 22 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | potassium fluoride | 44 mg | [F-].[K+]
reactant | cesium carbonate | 247 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(bromomethyl) -2-fluorophenyl]-D-glucitol | 198 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=C(C(=CC=C1)CBr)F | C21H24BrFO9
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 17 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 2-[2-fluoro-3-[(2S, 3R,4R,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-yl]benzyl]azulene-1-carboxylate | 19 mg | FC1=C(CC2=C(C3=CC=CC=CC3=C2)C(=O)OC)C=CC=C1[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO | C25H25FO7
